US06235778B1
c) N-{1-[[5-Methyl-3-(2-methylsulfonylphenylsulfonyloxy)phenoxy]methyl]cyclopropylmethoxy}phthalimide
To a solution of [1-[5-methyl-3-(2-methylsulfonylphenylsulfonyloxy)phenoxy]methyl]cyclopropylmethanol (4.7 g, 11.0 mmol), as prepared in the preceding step, triphenylphosphine (3.4 g, 13.0 mmol), N-hydroxyphthalimide (2.1 g, 13.0 mmol) in tetrahydrofuran (80 mL) was added diethyl azodicarboxylate (2.3 g, 13.0 mmol) at 0° C. The reaction mixture was stirred at ambient temperature overnight. The reaction mixture was concentrated in vacuo and ethyl acetate (100 mL) was added to the residue. The solid was collected, washed with ethyl acetate and dried in high vacuum to give the title compound as white solid (5.5 g, 87%). 1H-NMR (300 MHz, CDCl3) δ8.37 (d, J=7.8 Hz, 1H), 8.15 (d, J=7.8 Hz, 1H), 8.10 (t, J=7.7 Hz, 1H), 7.97 (t, J=7.7 Hz, 1H), 7.86 (s, 4H), 6.77 (s, 1H), 6.54 (s, 1H), 6.51 (s, 1H), 4.11 (s, 2H), 3.97 (s, 2H), 3.48 (s, 3H), 2.22 (s, 3H), 0.61-0.66 (m, 4H).

reactant | [1-[5-methyl-3-(2-methylsulfonylphenylsulfonyloxy)phenoxy]methyl]cyclopropylmethanol | 11.0 mmol, 4.7 g | CC=1C=C(C=C(OCC(O)C2CC2)C1)OS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C | C19H22O7S2
reactant | triphenylphosphine | 13.0 mmol, 3.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-hydroxyphthalimide | 13.0 mmol, 2.1 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | diethyl azodicarboxylate | 13.0 mmol, 2.3 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | N-{1-[[5-Methyl-3-(2-methylsulfonylphenylsulfonyloxy)phenoxy]methyl]cyclopropylmethoxy}phthalimide | 5.5 g, 87% | CC=1C=C(C=C(OCC2(CC2)CON2C(C=3C(C2=O)=CC=CC3)=O)C1)OS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C | C27H25NO9S2
